US04514416
In 200 ml of methanol, was suspended the 4-amidino-2-benzoylphenol hydrochloride obtained above. To the suspension was added 60 g of methanesulfonic acid followed by ethyl ether. The precipitated pale yellow crystals were collected by filtration and dried to obtain 109 g of 4-amidino-2-benzoylphenol methanesulfonate.

reactant | 4-amidino-2-benzoylphenol hydrochloride | Cl.C(N)(=N)C1=CC(=C(C=C1)O)C(C1=CC=CC=C1)=O
reactant | methanesulfonic acid | 60 g | CS(=O)(=O)O | CH4O3S
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | methanol | 200 ml | CO | CH4O
product | 4-amidino-2-benzoylphenol methanesulfonate | 109 g | CS(=O)(=O)OC1=C(C=C(C=C1)C(N)=N)C(C1=CC=CC=C1)=O | C15H14N2O4S
